US06420426B1
[4-Amino-2-(4-bromo-2-fluoro-benzylcarbamoyl)-phenoxy] acetic acid (0.62g, 1.56 mmol) was dissolved in allyl alcohol (15 mL, 0.1 M). This solution was treated with 7 drops of concentrated H2SO4 and stirred at room temperature for 48 h. The reaction was concentrated, redissolved in ethyl acetate, washed with H2SO, saturated aq NaCl (3×), dried over Na2SO4 and filtered. The filtrate was treated with decolorizing charcoal, boiled for 10 minutes, cooled to room temperature, filtered and concentrated. The crude solid was recrystallized from heptane and ethyl acetate to give [4-amino-2-(4-bromo-2-fluoro-benzylcarbamoyl)-phenoxy]-acetic acid allyl ester as a light orange solid (0.13 g, 20%). 1H NMR (DMSO-d6, 300 MHz) δ 8.92 (br t, J=5.4 Hz, 1H), 7.49-7.80 (m, 4H); 6.84 (d, J=8.7 Hz, 1 H), 6.63 (br dd, J1=8.7 Hz, J2=2.7 Hz, 1H), 5.95-5.79 (m, 1H), 5.29 (br d, J=17.1 Hz, 1H), 5.19 (br d, J=10.5 Hz, 1 H), 4.91 (br s, 1H), 4.83 (br s, 2H), 4.61 (br d, J=5.4 Hz, 1 H).

reactant | [4-Amino-2-(4-bromo-2-fluoro-benzylcarbamoyl)-phenoxy] acetic acid | 1.56 mmol, 0.62g | NC1=CC(=C(OCC(=O)O)C=C1)C(NCC1=C(C=C(C=C1)Br)F)=O | C16H14BrFN2O4
reactant | allyl alcohol | 0.1 M, 15 mL | C(C=C)O | C3H6O
catalyst | H2SO4 | 7 drops | OS(=O)(=O)O | H2O4S
product | [4-amino-2-(4-bromo-2-fluoro-benzylcarbamoyl)-phenoxy]-acetic acid allyl ester | 0.13 g, 20% | C(C=C)OC(COC1=C(C=C(C=C1)N)C(NCC1=C(C=C(C=C1)Br)F)=O)=O | C19H18BrFN2O4
